US05994378
A mixture of 4-tert-butyl-2-{5-[(3-cyano-5-hydroxyindol-1-yl)methyl]benzofuran-2-yl}thiazole (158 mg), methyl iodide (0.1 ml) and sodium carbonate (0.1 g) in N,N-dimethylformamide (1.5 ml) was stirred for 3 days at room temperature. The resulting mixture was diluted with brine and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give 4-tert-butyl-2-{5-[(3-cyano-5-methoxyindol-1-yl)methyl]benzofuran-2-yl}thiazole.

reactant | 4-tert-butyl-2-{5-[(3-cyano-5-hydroxyindol-1-yl)methyl]benzofuran-2-yl}thiazole | 158 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)O)C#N | C25H21N3O2S
reactant | methyl iodide | 0.1 ml | CI | CH3I
reactant | sodium carbonate | 0.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-tert-butyl-2-{5-[(3-cyano-5-methoxyindol-1-yl)methyl]benzofuran-2-yl}thiazole | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OC)C#N | C26H23N3O2S
